US08283353B2
[5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]acetic acid
A mixture of tert-butyl [5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]acetate (0.58 g) and trifluoroacetic acid (10 mL) was stirred at room temperature for 2 hr. The reaction mixture was diluted with toluene (10 mL), and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.19 g, 36%).

reactant | tert-butyl [5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]acetate | 0.58 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)CC(=O)OC(C)(C)C | C29H30N6O5
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | [5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]acetic acid | 0.19 g, 36% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)CC(=O)O | C25H22N6O5
